US05041638
This compound was prepared in a manner analogous to that used for the para isomer (Example 6). Thus 1.856 g of 3-(5-phenoxy-1-pentyn-1-yl)benzyl alcohol in 100 ml of CH3OH was treated with 333 mg 5% palladium on charcoal and 30 PSI hydrogen for 1.25 hours. The product mixture was filtered in the customary manner through celite and the filtrate was evaporated in vacuo to yield 1.89 g of the 3-(5-Phenoxypent-1-yl)benzyl alcohol in the form of a tan solid.

reactant | 3-(5-phenoxy-1-pentyn-1-yl)benzyl alcohol | 1.856 g | O(C1=CC=CC=C1)CCCC#CC=1C=C(CO)C=CC1 | C18H18O2
reactant | hydrogen | [H][H] | H2
solvent | CH3OH | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 333 mg | [Pd] | Pd
product | 3-(5-Phenoxypent-1-yl)benzyl alcohol | 1.89 g, Yield: 100% | O(C1=CC=CC=C1)CCCCCC=1C=C(CO)C=CC1 | C18H22O2
